US06927222B2
(iii) 2-(2-{3-[4-(3,4-Difluoro-phenoxy)-piperidin-1-yl]-2-hydroxy-propoxy}-benzoylamino)-2-methyl-propionic acid methyl ester
A toluene solution of 4-(3,4-difluorophenoxy)piperidine (0.03 ml, 0.5 M) was mixed with a toluene solution of methyl 2-methyl-2-{[2-(2-oxiranylmethoxy)benzoyl]amino}-propanoate (0.03 ml, 0.5 M). The mixture was diluted with 0.20 ml toluene and 0.05 ml methanol. The reaction mixture was stirred overnight at 100° C. in sealed vials. The product were concentrated in vacuo and used without any purification.

reactant | 4-(3,4-difluorophenoxy)piperidine | 0.5 M, 0.03 ml | FC=1C=C(OC2CCNCC2)C=CC1F | C11H13F2NO
reactant | methyl 2-methyl-2-{[2-(2-oxiranylmethoxy)benzoyl]amino}-propanoate | 0.5 M, 0.03 ml | CC(C(=O)OC)(C)NC(C1=C(C=CC=C1)OCC1OC1)=O | C15H19NO5
solvent | toluene | 0.20 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 0.05 ml | CO | CH4O
product | 2-(2-{3-[4-(3,4-Difluoro-phenoxy)-piperidin-1-yl]-2-hydroxy-propoxy}-benzoylamino)-2-methyl-propionic acid methyl ester | COC(C(C)(C)NC(C1=C(C=CC=C1)OCC(CN1CCC(CC1)OC1=CC(=C(C=C1)F)F)O)=O)=O | C26H32F2N2O6
